Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ditropan / Codeine
 
Attending: ___
 
Chief Complaint:
Urinary Tract Infection, Lung Mass
 
Major Surgical or Invasive Procedure:
Endotracheal Intubation
Central Line Placement
Arterial Line Placement
 
History of Present Illness:
___ with h/o bladder and prostate cancer, DM, CKD, and COPD was 
found on the floor by his wife this morning.  He does not recall 
the fall or if there was LOC or headstrike.  He was noted to be 
mentating well when EMS arrived.  His ___ at the time was > 400.  
His wife reports that she's noticed that he has had a runny nose 
for the past few days and he has been drinking more than normal. 
 He has been incontinent of urine since a ?bladder surgery.  He 
typically ambulates with assistance, but occasionally attempts 
to walk on his own.  He has no longer been driving because his 
family felt he was too weak. 

On the morning of admission, his wife found him on the floor 
lying on his back.  She hypothesizes that he slide down after 
being too weak to stand up when he was trying to get a drink.  
 
In the ED, initial vs were:  99.2 128 126/74 16 97%.  He was 
reported to mentate well and appeared comfortable overall.  A 
foley was placed and 'frank pus' was drained.  Urology was 
initially consulted given his difficult foley placement, but the 
ED was able to sucessfully place it and were able to visualize 
the balloon his the bladder on ultrasound per report.  Labs were 
significant for leukocytosis to 16.2 with 92% PMNs.  His 
creatinine was elevated to 1.7 from his apparent baseline of 
1.2-1.4.  His lactate was 2.5.  UA with > 182 WBCs.  A CXR was 
concerning for pneumonia.  He was given levaquin and CTX.  He 
was resuscitated with 2.5L of NS and his BP, although stable, 
began to down trend.  He is being admitted to the ICU for 
management of his sepsis.  He has 2 PIVs (18g and 20g) for 
access.  Vitals prior to transfer were  97.9 ___ 33 95% 
RA. 

On the floor, the patient is resting comfortably.  He is quite 
hard of hearing, making the interview difficult.  He denies any 
pain and feels well.  He is uncure of why he is in the hospital. 
 He does not have CP or SOB.  He has not had a cough.  He denies 
increased urinary frequency or dysuria.  Of note, the patient 
has not seen his PCP ___ ___, despite outreach for 
appointments. The patient was transferred to the ICU for 
hypotension.

Review of systems:  
(+) Per HPI  
(-) ROS was difficult as patient is quite hard of hearing.  
Denies fever, chills, night sweats, recent weight loss or gain.  
No changes in appetite.  Denies headache, sinus tenderness, 
rhinorrhea or congestion. Denies chest pain, chest pressure, 
palpitations, or weakness. Denies nausea, vomiting, diarrhea, 
constipation, abdominal pain, or changes in bowel habits. Denies 
dysuria, frequency, or urgency. Denies arthralgias or myalgias. 
Denies rashes or skin changes.  

 
Past Medical History:
1. Type 2 DM: on glucophage and possibly avandia (pt knows he is 
on medicine that starts with an "a")  
2. Hypercholesterolemia: had been on vytorin but felt badly on 
this medicine (but was on avandia at the same time so unclr what 
is causing adverse rxn)  
3. COPD - never been intubated. baseline bicarb 32  
4. Prostate Ca s/p XRT  
5. Radiation cystitis  
6. stage 2 transitional cell Ca of bladder  
7. RBBB, hx atrial ectopy  
 
Social History:
___
Family History:
Not contributory 
 
Physical Exam:
ICU ADMISSION PHYSICAL EXAM:
============================
Vitals:  Per metavision
General: no acute distress, awake, currently oriented to self 
and occasionally place. Pt is quite thin.
HEENT: Sclera anicteric, dry mucus membranes, oropharynx clear  
Neck: supple, JVP 2-3cm above the clavicle, no LAD  
Lungs: Exam limited by patient cooperation, but overall 
respirations are unlabored, but patient is occasionally 
tachypneic (30s).  Lungs appear clear on exam, no wheezes or 
rales appreciated.  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
murmur.
Abdomen: scaphoid, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU: foley draining opaque yellow urine.  
Skin: Pt with significant diffuse xerosis, 3-4cm pressure ulcer 
on left hip (trochanter) and 2cm region of break down on left 
lateral malleolus.  
Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or 
edema 

ICU DISCHARGE PHYSICAL EXAM:
============================
Vitals monitors showed patient to be without heart beats or 
respirations. Did not respond to aural or tactile stimuli. On 
auscultation, no heart beats, no respirations. No corneal 
reflex. Time of death 159a on ___. 
 
Pertinent Results:
Admission Labs:
===============
___ 05:40AM BLOOD WBC-16.2*# RBC-4.33* Hgb-12.8* Hct-38.5* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-13.0 Plt ___
___ 05:40AM BLOOD Glucose-444* UreaN-20 Creat-1.7* Na-133 
K-5.0 Cl-93* HCO3-33* AnGap-12
___ 05:40AM BLOOD CK(CPK)-21*
___ 04:00PM BLOOD Calcium-9.1 Phos-2.2* Mg-1.6
___ 05:43AM BLOOD Lactate-2.5*

___ 06:32AM URINE RBC-118* WBC->182* Bacteri-MANY 
Yeast-NONE Epi-0
___ 04:42PM URINE Hours-RANDOM UreaN-279 Creat-68 Na-81 
K-34 Cl-80

IMAGING:
========
- CT Chest (___)
1.  Large left upper lobe lesion invading the left pleural space 
and chest wall with involvement of the left anterior third and 
fourth ribs is highly suspicious for primary lung tumor. 
2.  There is ipsilateral and controlateral lymphadenopathy and 
small bilateral pleural effusions, larger to the left. 
3.  Stable severe centrilobular and panlobular emphysema. 
4.  Stable severe coronary artery disease and aortic valve 
calcification. 

-CXR (___)  
New focal consolidation in the lateral aspect of the left upper 
lung is concerning for pneumonia, however a neoplastic process 
cannot be excluded.  Short interval followup is recommended upon 
completion of treatment to document resolution.  
 
-NCHCT (___)
There is no evidence of hemorrhage, infarction, edema, mass or 
shift of normally midline structures.  Prominence of cortical 
sulci, fissures, ventricles and extra-axial CSF spaces 
representing atrophy is likely age-related.  Mild hypodensity in 
periventricular white matter is seen, likely sequela of small 
vessel disease.  The basal cisterns appear patent and there is 
preservation of gray-white matter differentiation.  
No fracture is identified.  The visualized paranasal sinuses, 
mastoid air cells and middle ear cavities are clear.  Note is 
made of calcifications of the carotid siphons bilaterally.   

EKG:
====  
___: Sinus tachycardia. Intraventricular conduction delay. 
Non-specific ST-T wave changes. Compared to the previous tracing 
of ___ the rate has increased. 
  
Discharge Labs:
===============
___ 03:47AM BLOOD WBC-10.5 RBC-2.60* Hgb-7.6* Hct-24.5* 
MCV-94 MCH-29.4 MCHC-31.2 RDW-14.3 Plt ___
___ 03:47AM BLOOD Glucose-81 UreaN-15 Creat-1.2 Na-134 
K-4.5 Cl-97 HCO3-30 AnGap-12
___ 03:47AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.___ with h/o bladder and prostate cancer, DM, CKD, and COPD was 
found s/p fall by his wife, admitted to the MICU with sepsis 
likely from his UTI. He was found to have lung adenocarcinoma 
and pneumonia; his clinical status deteriorated during his stay 
likely due to his underlying sepsis, and the patient was made 
CMO ___. The patient was pronounced dead at 1:59a on ___. 

# Sepsis:
On presentation to the ED, the patient met ___ SIRS criteria, 
and had a lactate of 2.6. Foley placement then revealed purulent 
urine. CXR showed LUL consolidation. For hypoxemia, the patient 
was intubated from ___ - ___. Empiric antibiotics and 
antifungals were administered to cover his sepsis sources (lung, 
urine), but his blood pressures remained low and he continued to 
require vasopressors.  Following extensive discussions with the 
patient's wife and family, goals of care were transitioned to 
focus on comfort as a priority, a decision consistent with the 
patients' previously expressed wishes. On ___ pateint was CMO, 
and quietly expired later that evening.

# Left Lung Mass:
For opacification on CXR, a chest CT was obtained to further 
characterize the lesion and revealed a large left upper lobe 
mass invading the left pleural space and chest wall with 
involvement of the left anterior third and fourth ribs, highly 
suspicious for primary lung tumor. There was also ipsilateral 
and controlateral lymphadenopathy. ___ was consulted and an 
ultrasound-guided biopsy showed non-small cell carcinoma, favor 
lung adenocarcinoma. Some morphologic features in conjunction 
with the immunohistochemical staining profile raised the 
possibility of an adenosquamous carcinoma. Based on the 
patient's staging and clinical status, Oncology offered that 
there was low probability of cure for this cancer, though 
palliative chemotherapy and radiation would have been offered 
had his acute illness resolved. 
 
# Delirium
Pt was very agitated in the MICU, pulling at lines and requiring 
a Posey vest to keep him safe. He responded well to 1mg doses of 
IV haldol. On ___, haldol was switched to PO dosing PRN. At 
the time of his passing, the patient was comfortable.

# Tachycardia
Pt was tachycardic to > 130 on admission.  EKG on admission with 
TWI, which is likely rate related. A repeat EKG was unchanged. 
Cardiac enzymes were trended and remained negative. Sinus 
tachycardia persisted while in the MICU, fluid unresponsive, 
felt to be ___ agitation/delirium since HR trended with 
agitation. The patient was shortly bradycardic before his death. 


# Fall
Patient was 'found down' awake by his wife on the morning of 
presentation to the hospital.  All reports point to mechanical 
fall as he has been weaker than normal and typically ambulates 
with assistance.  She found him on his back and feels he slid 
out of bed.  Given AOCKD on initial presentation and clinical 
dehydration noted on exam, it is possible that orthostasis 
played a role. Prior to CMO, patient was monitored on telemetry 
while in the MICU without events. 

# Diabetes
HbA1c was 8.4% in ___, but ___ was > 400 when EMS arrived.  
Glipizide was held and blood glucose was controlled with sliding 
scale insulin while hospitalized. 
 
# HLD
Most recent lipid panel from ___ was total 227, HDL 74, LDL 
141.  His wife reports he was told to stop taking simvastatin. 

# Social situation
Concerns have been raised that his wife has been having 
difficulties caring for him at home and patient with at least 
two pressure ulcers present on admission. Social work was 
consulted. 

Further discussions were had with the family as the patient's 
respiratory status declined. Because of his multiple medical 
issues and declining clinical status, the family made the 
patient CMO prior to his passing.
 
Medications on Admission:
Per chart, patient reports not taking any pills.  His wife 
reports he only takes pills when she gives them too him (daily)
*-Folic acid 1 mg po daily
*-Glipizide 5 mg po BID
*-Lisinopril 5 mg po daily 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
Time of death 1:59a ___.
 
Discharge Instructions:
N/A
 
Followup Instructions:
___